US05241027
Octadecyl parachlorobenzenesulfonate (11.2 g) was added to 5.84 g of 5,6-dimethoxy-2-methylbenzoselenazole, and the mixture was heated at 130° C. for 6 hours. The crystals yielded by the reaction were washed with ether and then recrystallized from a solvent mixture composed of hexane and benzene. The subsequent drying gave 10.4 g of 5,6-dimethoxy-2-methyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate (yield 65%).

reactant | Octadecyl parachlorobenzenesulfonate | 11.2 g | ClC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCCC | C24H41ClO3S
reactant | 5,6-dimethoxy-2-methylbenzoselenazole | 5.84 g | COC=1C(=CC2=C(N=C([Se]2)C)C1)OC | C10H11NO2Se
product | 5,6-dimethoxy-2-methyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate | 10.4 g, yield 65% | ClC1=CC=C(C=C1)S(=O)(=O)[O-].COC=1C(=CC2=C([N+](=C([Se]2)C)CCCCCCCCCCCCCCCCCC)C1)OC | InChI=1S/C28H48NO2Se.C6H5ClO3S/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-29-24(2)32-28-23-27(31-4)26(30-3)22-25(28)29;7-5-1-3-6(4-2-5)11(8,9)10/h22-23H,5-21H2,1-4H3;1-4H,(H,8,9,10)/q+1;/p-1
